US07511041B2
(2) 2-Amino-4-(morpholin-4-yl)benzonitrile
To a cooled mixture of tin(II) chloride dihydrate 12.8 g (56.7 mmol) in conc. HCl 40 mL with ice bath was added 4-(morpholin-4-yl)-2-nitrobenzonitrile 4.20 g (16.09 mmol) and stirred at room temperature for 2 hours. The reaction mixture was poured into diluted NaOH solution and extracted into ethyl acetate. The organic layer was washed with water and brine, dried over MgSO4 and the solvent was evaporated. The crude product was washed with diethyl ether to give the title compound 3.13 g as off-white solid. Yield 95.0%.

reactant | tin(II) chloride dihydrate | 56.7 mmol, 12.8 g | O.O.[Sn](Cl)Cl
reactant | 4-(morpholin-4-yl)-2-nitrobenzonitrile | 16.09 mmol, 4.20 g | N1(CCOCC1)C1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C11H11N3O3
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 40 mL | Cl | ClH
product | 2-Amino-4-(morpholin-4-yl)benzonitrile | 3.13 g, Yield 95.0% | NC1=C(C#N)C=CC(=C1)N1CCOCC1 | C11H13N3O
